US08183251B2
d) N-Methyl-N-{[4-(pyrimidin-5-yloxy)phenyl]methyl}amine
4-(Pyrimidin-5-yloxy)benzaldehyde (0.344 g, 1.7 mmol) was stirred with 33% methylamine in EtOH (30 mL) at reflux for 3 hours and then concentrated. The residue was dissolved in MeOH and treated with sodium borohydride (0.195 g, 5.2 mmol) over 1 hour and stirred for a further 1 hour. Water was added and the product was extracted three times with EtOAc. The organic phases were combined, washed with brine, dried and concentrated to give 0.267 g (100%) of product that was used without further purification.

reactant | 4-(Pyrimidin-5-yloxy)benzaldehyde | 1.7 mmol, 0.344 g | N1=CN=CC(=C1)OC1=CC=C(C=O)C=C1 | C11H8N2O2
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 5.2 mmol, 0.195 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
product | N-Methyl-N-{[4-(pyrimidin-5-yloxy)phenyl]methyl}amine | 0.267 g, 100% | CNCC1=CC=C(C=C1)OC=1C=NC=NC1 | C12H13N3O
